US07432289B2
5-Amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide (260 mg, 0.93 mmol), 2-chloropyridine-4-carbonyl chloride (245 μl) and triethylamine (195 μl, 1.39 mmol) were stirred at room temperature in DCM (20 ml) for 72 h. The reaction was diluted with DCM (100 ml), washed with aqueous sodium hydroxide (2M, 100 ml) and dried (magnesium sulphate). The solvent was evaporated under vacuum, the residue dissolved in methanol and purified by SPE (C18, 10 g) eluting with water, water/acetonitrile (1:1) and acetonitrile. The solvent was evaporated from the product fractions under vacuum to give 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide (130 mg, 33%). NMR; δH [2H6]—DMSO 10.57,(1H, s), 8.63-8.60,(2H, m), 7.99,(1H, s), 7.93,(2H, d), 7.86,(1H, dd),7.70,(1H, dd), 7.66,(1H, d), 7.44,(2H, d), 7.32,(1H, d), 3.16,(2H, t), 2.21,(3H, s), 1.05,(1H, m), 0.43,(2H, m), 0.24,(2H, m). LCMS: retention time 3.53 min, MH+420/422.

reactant | 5-Amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide | 0.93 mmol, 260 mg | NC=1C(=CC=C(C1)C1=C(C=CC=C1)C)C(=O)NCC1CC1 | C18H20N2O
reactant | 2-chloropyridine-4-carbonyl chloride | 245 μl | ClC1=NC=CC(=C1)C(=O)Cl | C6H3Cl2NO
reactant | triethylamine | 1.39 mmol, 195 μl | C(C)N(CC)CC | C6H15N
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide | 130 mg, 33% | ClC=1C=C(C(=O)NC=2C=C(C(=CC2)C)C2=CC=C(C=C2)C(=O)NCC2CC2)C=CN1 | C24H22ClN3O2
